US07238813B2
Methyl (5-(4-aminophenoxy)azaindolizine-2-yl)carbamate
To a solution of 5-(4-acetamidophenoxy)pyridine-2-ylamine (Intermediate 9J170.2 mg, 0.7 mmol) in DMF (2 mL) was added N-(methoxycarbonyl)chloroacetoamide (159.0 mg, 1.1 mmol). The mixture was stirred at 80° C. overnight. Additional N-(methoxycarbonyl)chloroacetoamide (159.0 mg, 1.1 mmol) was added and stirred at 80° C. overnight. After cooling, the mixture was extracted with ethyl acetate. The organic layer was washed with NaHCO3 (aq) and brine, dried over Na2SO4 then evaporated. Sequence purification on SiO2 column chromatography gave methyl (5-(4-acetoamidophenoxy)azaindolizine-2-yl)carbamate (51.7 mg, 22%). To a solution of methyl (5-(4-acetoamidophenoxy)azaindolizine-2-yl)carbamate (34.0 mg, 0.1 mmol) in water (2 mL) was added 2N HCl (aq) (2.0 mL) then refluxed for 1 hr and stirred at room temperature for 1 hr. The mixture was added NH4OH (aq). Formed precipitate was collected by filtration, washed with water then dried under reduced pressure to give the title compound (22.0 mg, 74%): MS m/e 299 (M+1).

reactant | methyl (5-(4-acetoamidophenoxy)azaindolizine-2-yl)carbamate | 0.1 mmol, 34.0 mg | C(C)(=O)NC1=CC=C(OC=2N3C=C(N=C3C=CC2)NC(OC)=O)C=C1 | C17H16N4O4
reactant | HCl | 2N, 2.0 mL | Cl | ClH
reactant | NH4OH | [NH4+].[OH-]
solvent | water | 2 mL | O | H2O
product | Methyl (5-(4-aminophenoxy)azaindolizine-2-yl)carbamate | 22.0 mg, 74% | NC1=CC=C(OC=2N3C=C(N=C3C=CC2)NC(OC)=O)C=C1 | C15H14N4O3
